US07863444B2
A mixture of 5-bromo-2-methoxyaniline (1.50 g, 7.43 mmol), and di-tert-butyl dicarbonate (1.95 g, 8.91 mmol) in THF (20 ml) was heated at reflux for 20 hours. The mixture was cooled to ambient temperature and then the solvent was removed under reduced pressure. The resulting oil was purified by flash chromatography on silica gel using ethyl acetate/heptane (1:9) as an eluent to yield tert-butyl N-(5-bromo-2-methoxyphenyl)carbamate (2.19 g) as a colorless oil: 1H NMR (DMSO-d6, 400 MHz) δ 8.05 (s, 1H), 7.93 (d, 1H), 7.16 (d, 1H), 6.95 (d, 1H), 3.8 (s, 1H), 1.47 (s, 9H); TLC (ethyl acetate/heptane 2:8) Rf 0.4; RP-HPLC (Hypersil HyPurity Elite C18, 5 μm, 200 A, 250×4.6 mm; 25-100% acetonitrile-0.1 M ammonium acetate over 25 min, 1 ml/min) tr=21.8 min.

reactant | 5-bromo-2-methoxyaniline | 7.43 mmol, 1.50 g | BrC=1C=CC(=C(N)C1)OC | C7H8BrNO
reactant | di-tert-butyl dicarbonate | 8.91 mmol, 1.95 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | tert-butyl N-(5-bromo-2-methoxyphenyl)carbamate | 2.19 g | BrC=1C=CC(=C(C1)NC(OC(C)(C)C)=O)OC | C12H16BrNO3
